### PR TITLE
Lspace

### PR DESCRIPTION
**Pull request by hoheinzollern**
This PR will be rebased on PR #1506 (or on master should the latter be merged before).

### CODE REVIEW

**Comment by hoheinzollern** [comment]
[Wikipedia](https://en.wikipedia.org/wiki/Lp_space#Lp_spaces_and_Lebesgue_integrals) uses the p-norm to define Lp spaces when `p` may be `+oo`, whereas for example [this reference](https://www.math.ucdavis.edu/~hunter/measure_theory/measure_notes_ch7.pdf) sticks to the definition that was previously in this PR. [Klenke](https://link.springer.com/book/10.1007/978-3-030-56402-5) also seems to go with the Wikipedia approach.
I have now moved to using norms in the last commits, and extending the theory to extended reals.
Is there a good reason to choose one over the other?

File: theories/lspace.v [hunk 1]
```diff
@@ -0,0 +1,480 @@
...
+
+Local Open Scope classical_set_scope.
+Local Open Scope ereal_scope.
+
+Definition conjugate :=
+  match p with
+  | r%:E => [get q : R | r^-1 + q^-1 = 1]%:E
+  | +oo  => 1
+  | -oo  => 0
+  end.
```
Comment (CohenCyril) [inline theories/lspace.v:161]: This is ill-defined when `p = 1`, writing the following
```suggestion
  [get q : \bar R | (q > 0) /\ r^-1 + q^-1 = 1]
```
with a proper definition of `^-1` that I might PR soon.

File: theories/lspace.v [hunk 2]
```diff
@@ -0,0 +1,480 @@
...
+under eq_set do rewrite preimage_cst/=.
+rewrite ereal_inf_EFin ?ltry//.
+- exists r => x/=; case: ifPn => [_|].
+    by move: mu0 => /[swap] ->; rewrite ltNge lexx.
+  by rewrite set_itvE notin_setE//= ltNge => /negP/negbNE.
+by exists r => /=; rewrite ifF//; rewrite set_itvE;
+  rewrite memNset //=; apply/negP; rewrite -real_leNgt ?num_real.
+Qed.
+
+Lemma ess_sup_cst r : (0 < mu setT)%E -> (ess_sup mu (cst r) = r%:E)%E.
```
Comment (CohenCyril) [inline theories/lspace.v:260]: The former lemma is subsumed by the latter.

File: theories/lspace.v [hunk 3]
```diff
@@ -0,0 +1,480 @@
...
+  rewrite ltNge => /negbNE mu0 _ _.
+  suffices mueq0: mu setT = 0 by exact: ae_eq0.
+  move: mu0 (measure_ge0 mu setT) => mu0 mu1.
+  suffices: (mu setT <= 0 <= mu setT)%E by move/le_anti.
+  by rewrite mu0 mu1.
+by [].
+Qed.
+
+
+Lemma Lnorm_eq0 (f : ty) : nm f = 0 -> f = 0 %[ae mu].
```
Comment (CohenCyril) [inline theories/lspace.v:453]: Add a lemma saming `forall f : ty, nm f = 'N[mu]_p[f]%:E`

File: theories/measure.v [hunk 4]
```diff
@@ -4085,83 +4084,135 @@ End ae.
...
+    (right associativity, at level 55) : signature_scope.
+
+  Notation " R ~~> R' " := (@respectful _ _ (Program.Basics.flip (R%signature)) (R'%signature))
+    (right associativity, at level 55) : signature_scope.
+
+End ProperNotations.
+Import ProperNotations.
+
+Arguments Proper {A}%_type R%_signature m.
+Arguments respectful {A B}%_type (R R')%_signature _ _.
```
Comment (CohenCyril) [inline theories/measure.v:4134]: This should be in a dedicated compat file for importing setoid rewrite into MCA.

File: theories/lspace.v (hunk 2 above)
Comment (hoheinzollern) [reply theories/lspace.v:260]: no need to have it indeed

File: theories/measure.v [hunk 5]
```diff
@@ -5358,6 +5358,15 @@ Implicit Types f : T -> R.
 Definition ess_sup f :=
   ereal_inf (EFin @` [set r | mu (f @^-1` `]r, +oo[) = 0]).
 
+Lemma ess_supP f a :
+  ess_sup f = a <-> \forall x \ae mu, (f x)%:E <= a.
```
Comment (CohenCyril) [inline theories/measure.v:5362]:
```suggestion
Lemma ess_supP f a :
  reflect (\forall x \ae mu, (f x)%:E <= a) (ess_sup f <= a).
```

Comment (CohenCyril) [reply theories/measure.v:5362]: @hoheinzollern I can try to contribute this lemma if you haven't done it somewhere else.

Comment (CohenCyril) [reply theories/measure.v:5362]: This is the main theorem about essential supremums i.e. "ess_sup ⊣ (<=_ae)", and essentially everything comes from this

**Comment by affeldt-aist** [comment]
This is superseded by the merged PR #1624 and PR #1606 , hence closed.

**Comment by hoheinzollern** [comment]
I can see there was activity. Shall I close this PR? It looks no longer relevant.
